US06479524B1
c. 1-(4-bromo-2-methyl-phenyl)-2-methyl-benzimidazole
A mixture of 5.22 g (18.8 mmol) of N-(2-aminophenyl)-4-bromo-2-methyl-aniline and 7.1 ml (75.2 mmol) of acetic acid anhydride is heated to boiling for 30 hours, combined with 15 ml of glacial acetic acid and heated to boiling for another 30 hours. Then the reaction mixture is concentrated and purified by flash chromatography (silica gel; methylene chloride).

reactant | N-(2-aminophenyl)-4-bromo-2-methyl-aniline | 18.8 mmol, 5.22 g | NC1=C(C=CC=C1)NC1=C(C=C(C=C1)Br)C | C13H13BrN2
reactant | acetic acid anhydride | 75.2 mmol, 7.1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 1-(4-bromo-2-methyl-phenyl)-2-methyl-benzimidazole | BrC1=CC(=C(C=C1)N1C(=NC2=C1C=CC=C2)C)C | C15H13BrN2
